US09371314B2
The reaction mixture of 2-(2-aminopyridin-3-yl)-1-benzothiophene-5-carboxylic acid (54 mg, 0.2 mmol, 1 eq), 2-fluoro-5-methylaniline (0.048 mL, 2.1 eq), DMAP (5 mg, 0.2 eq), and EDCI (46.1 mg, 1.2 eq) in anhydrous 1,2-dichloroethane (2 mL) and anhydrous DMF (0.5 mL) was stirred and heated at 60° C. for 1 hour. It was then diluted with ethyl acetate, washed sequentially with aqueous NH4Cl, saturated aqueous NaHCO3, and brine, and finally dried with anhydrous sodium sulfate. The upper, clear solution-layer was decanted, concentrated, and the solid residue was subject to a gradient column chromatography (EtOAc-Hex 1:4 to 1:1) to yield 2-(2-aminopyridin-3-yl)-N-(2-fluoro-5-methylphenyl)-1-benzothiophene-5-carboxamide as a white solid in amount of 39.8 mg.

reactant | 2-(2-aminopyridin-3-yl)-1-benzothiophene-5-carboxylic acid | 0.2 mmol, 54 mg, 1 eq | NC1=NC=CC=C1C=1SC2=C(C1)C=C(C=C2)C(=O)O | C14H10N2O2S
reactant | 2-fluoro-5-methylaniline | 0.048 mL, 2.1 eq | FC1=C(N)C=C(C=C1)C | C7H8FN
reactant | EDCI | 46.1 mg, 1.2 eq | CCN=C=NCCCN(C)C | C8H17N3
catalyst | DMAP | 5 mg, 0.2 eq | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | 1,2-dichloroethane | 2 mL | ClCCCl | C2H4Cl2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-aminopyridin-3-yl)-N-(2-fluoro-5-methylphenyl)-1-benzothiophene-5-carboxamide | NC1=NC=CC=C1C=1SC2=C(C1)C=C(C=C2)C(=O)NC2=C(C=CC(=C2)C)F | C21H16FN3OS
